US07482349B2
Preparation of 1-(4-Methoxy-3-methylphenyl)-2-(3-pyridin-4-ylphenyl)ethane-1,2-dione
A solution of 1-(3-bromo-phenyl)-2-(4-methoxy-3-methylphenyl)ethane-1,2-dione (0.25 g, 0.75 mmol) in dioxane is treated sequentially with tri-o-tolylphosphine (57 mg, 0.187 mmol), palladium (II) acetate (21 mg, 0.093 mmol), pyridine-4-boronic acid (139 mg, 1.125 mmol) and H2O, stirred at 100° C. for 4 h, cooled to room temperature and filtered. The filtrate is evaporated in vacuo. The resultant residue is purified by flash chromatography on silica gel (hexanes/EtOAc 3/7 as eluent), to afford the title compound as a yellow solid, 0.145 g (58% yield), identified by HNMR and mass spectral analyses. MS m/e (M+H)+ 332; 1H NMR (400 MHZ, CDCl3) δ 2.28 (s, 3H) 3.95 (s, 3H) 6.94 (d, 1H) 7.68 (m, 3H) 7.84 (m, 2H) 7.88 (m, 1H) 8.08 (m, 1H) 8.30 (m, 1H) 8.75 (m, 2H).

reactant | 1-(3-bromo-phenyl)-2-(4-methoxy-3-methylphenyl)ethane-1,2-dione | 0.75 mmol, 0.25 g | BrC=1C=C(C=CC1)C(C(=O)C1=CC(=C(C=C1)OC)C)=O | C16H13BrO3
reactant | tri-o-tolylphosphine | 0.187 mmol, 57 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | pyridine-4-boronic acid | 1.125 mmol, 139 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | H2O | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | palladium (II) acetate | 0.093 mmol, 21 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(4-Methoxy-3-methylphenyl)-2-(3-pyridin-4-ylphenyl)ethane-1,2-dione | 58% yield | COC1=C(C=C(C=C1)C(C(=O)C1=CC(=CC=C1)C1=CC=NC=C1)=O)C | C21H17NO3
